US07504508B2
To a solution of (2S,4R)-N-(4-{4-[Acetyl-(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenyl)-succinamic acid methyl ester (55 mg, 0.100 mmoles) in DMF was added sodium hydride (60% dispersion in oil). After 30 minutes, iodomethane (16 uL, 0.11 mmoles) was added to the reaction mixture and stirred at room temperature overnight. Reaction was quenched with water and extracted with ethyl acetate. Combined organics were washed with saturated aqueous sodium bicarbonate, brine, dried over sodium sulfate, filtered and concentrated under reduced pressure. Product was purified on silica gel by flash chromatography using 100% ethyl acetate and 90% ethyl acetate/10% methanol to afford (2S,4R)-N-(4-{4-[Acetyl-(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenyl)-N-methyl-succinamic acid methyl ester (16 mg, 26%).

reactant | (2S,4R)-N-(4-{4-[Acetyl-(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenyl)-succinamic acid methyl ester | 0.100 mmoles, 55 mg | COC(CCC(=O)NC1=CC=C(C=C1)C(=O)N1[C@H](C[C@H](C2=CC=CC=C12)N(C1=CC=C(C=C1)Cl)C(C)=O)C)=O | C30H30ClN3O5
reactant | sodium hydride | [H-].[Na+]
reactant | iodomethane | 0.11 mmoles, 16 uL | IC | CH3I
solvent | DMF | CN(C)C=O | C3H7NO
product | (2S,4R)-N-(4-{4-[Acetyl-(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenyl)-N-methyl-succinamic acid methyl ester | 16 mg, 26% | COC(CCC(=O)N(C)C1=CC=C(C=C1)C(=O)N1[C@H](C[C@H](C2=CC=CC=C12)N(C1=CC=C(C=C1)Cl)C(C)=O)C)=O | C31H32ClN3O5
